US07297686B2
1. Chromium-ATP Complex
In a preferred embodiment, a complex of chromium and ATP is produced. In order to form such a complex, equimolar amounts of chromium and ATP are mixed in water at a pH of around 3. The mixture is then incubated at approximately room temperature for 1-2 hours to form the chromium-ATP complex. This complex is believed to have a molar ratio of chromium:ATP of approximately 1:3.

reactant | chromium | [Cr] | Cr
reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
solvent | water | O | H2O
product | Chromium ATP | [Cr].P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | InChI=1S/C10H16N5O13P3.Cr/c11-8-5-9(13-2-12-8)15(3-14-5)10-7(17)6(16)4(26-10)1-25-30(21,22)28-31(23,24)27-29(18,19)20;/h2-4,6-7,10,16-17H,1H2,(H,21,22)(H,23,24)(H2,11,12,13)(H2,18,19,20);/t4-,6-,7-,10-;/m1./s1
